US05670505
To a stirred mixture of 4-(dimethylamino)butyric acid hydrochloride (70 mg) and 1-hydroxybenzotriazole hydrate (160 mg) in dichloromethane (10 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (80 mg) under ice cooling. After stirring for 30 minutes, a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (200 mg) in dichloromethane (5 ml) was added at the same temperature. The resulting mixture was stirred for 2.5 hours at room temperature. Dichloromethane and aqueous sodium bicarbonate solution were added to the reaction mixture and then the organic layer was separated and dried over magnesium sulfate. Evaporation of the solvent in vacuo gave (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(dimethylamino)butyryl]-2-(1H-indol-3-yl-methyl)piperazine (0.25 g).

reactant | 4-(dimethylamino)butyric acid hydrochloride | 70 mg | Cl.CN(CCCC(=O)O)C
reactant | 1-hydroxybenzotriazole hydrate | 160 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 80 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 200 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(dimethylamino)butyryl]-2-(1H-indol-3-yl-methyl)piperazine | 0.25 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(CCCN(C)C)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C28H30F6N4O2
